*
V1 N001 0 PULSE(0 100 0 1u 1u 5)
R3 N002 N001 10
R1 0 N003 10
R2 0 N004 10
L1 N002 N003 1 Rser=1m
L2 N003 N004 1 Rser=1m
.tran 0 5 0.1
.backanno
.end
